US07173135B2
3-cyano-6,7-dimethoxy-4-[5-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline
A mixture of 4-(5-bromo-2,3-methylenedioxyanilino)-3-cyano-6,7-dimethoxyquinoline (0.15 g), methyl 2-propynyl ether (0.049 g), tetrakis(triphenylphosphine)palladium(0) (0.02 g) and pyrrolidine (2 ml) was stirred and heated to 80° C. for 8 hours. The resultant mixture was cooled to ambient temperature, poured into a dilute aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phase was washed with water and with a saturated brine solution, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. There was thus obtained the title compound as a solid (0.032 g); NMR Spectrum: (CDCl3) 3.4 (s, 3H), 3.77 (s, 3H), 4.04 (s, 3H), 4.24 (s, 2H), 5.97 (s, 2H), 6.65 (br s, 1H), 6.73 (d, 1H), 6.78 (d, 1H), 6.99 (s, 1H), 7.38 (s, 1H), 8.63 (s, 1H); Mass Spectrum: M+H+ 418.

reactant | 4-(5-bromo-2,3-methylenedioxyanilino)-3-cyano-6,7-dimethoxyquinoline | 0.15 g | BrC=1C=C2C(=C(NC3=C(C=NC4=CC(=C(C=C34)OC)OC)C#N)C1)OCO2 | C19H14BrN3O4
reactant | methyl 2-propynyl ether | 0.049 g | C(C#C)OC | C4H6O
reactant | pyrrolidine | 2 ml | N1CCCC1 | C4H9N
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyano-6,7-dimethoxy-4-[5-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline | 0.032 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=CC(=C1)C#CCOC)OCO2)OC)OC | C23H19N3O5
